US08980911B2
A solution of (4-amino-1H-pyrrolo[3,2-c]pyridin-1-yl)(4-bromo-2,6-dichlorophenyl)methanone (40 mg, 0.113 mmol) and triethylamine (0.23 mL, 0.206 mmol) in anhydrous tetrahydrofuran was treated dropwise with cyclopropane carbonyl chloride (0.01 mL, 0.11 mmol) under ice-cooled condition and stirred at room temperature for 1 hour. Ethyl acetate was added and washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulphate and concentrated to afford N-[1-(4-bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]-N-(cyclopropylcarbonyl)cyclopropanecarboxamide.

reactant | (4-amino-1H-pyrrolo[3,2-c]pyridin-1-yl)(4-bromo-2,6-dichlorophenyl)methanone | 0.113 mmol, 40 mg | NC1=NC=CC2=C1C=CN2C(=O)C2=C(C=C(C=C2Cl)Br)Cl | C14H8BrCl2N3O
reactant | triethylamine | 0.206 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carbonyl chloride | 0.11 mmol, 0.01 mL | C1(CC1)C(=O)Cl | C4H5ClO
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[1-(4-bromo-2,6-dichlorobenzoyl)-1H-pyrrolo[3,2-c]pyridin-4-yl]-N-(cyclopropylcarbonyl)cyclopropanecarboxamide | BrC1=CC(=C(C(=O)N2C=CC=3C(=NC=CC32)N(C(=O)C3CC3)C(=O)C3CC3)C(=C1)Cl)Cl | C22H16BrCl2N3O3
